US08124621B2
f) 1-Amino-6-chloro-4-(4-nitrophenyl)-3,4-dihydroisoquinoline
A solution of 0.45 g of 6-chloro-1-methylthio-4-(4-nitrophenyl)-3,4-dihydroisoquinoline and 30 ml of ammonia-saturated THF solution was heated in an autoclave at 80° C. for 10 hours and then at 12° C. for a further 15 hours. Subsequent MPLC on an MPRC cartridge and a mixture of 20 parts by volume of ethyl acetate:10 parts by volume of n-heptane:3 parts by volume of glacial acetic acid leads to elution of starting material (6-chloro-1-methylthio-4-(4-nitrophenyl)-3,4-dihydroisoquinoline). Subsequent elution with methanol results in 1-amino-6-chloro-4-(4-nitrophenyl)-3,4-dihydroisoquinoline.

reactant | 6-chloro-1-methylthio-4-(4-nitrophenyl)-3,4-dihydroisoquinoline | 0.45 g | ClC=1C=C2C(CN=C(C2=CC1)SC)C1=CC=C(C=C1)[N+](=O)[O-] | C16H13ClN2O2S
reactant | ammonia | 30 ml | N | H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Amino-6-chloro-4-(4-nitrophenyl)-3,4-dihydroisoquinoline | NC1=NCC(C2=CC(=CC=C12)Cl)C1=CC=C(C=C1)[N+](=O)[O-] | C15H12ClN3O2
